US05624943
Under the conditions of example 1 D, 850 mg of 3-(3-hydroxy-6-iodo-2-pyridyl)-propionic acid methyl ester is reacted with 612 mg of (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene, worked up, and the crude product is chromatographed on silica gel with hexane/0-5% ethyl acetate. 773 mg of 3-{6-iodo-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester is obtained as colorless oil.

reactant | 3-(3-hydroxy-6-iodo-2-pyridyl)-propionic acid methyl ester | 850 mg | COC(CCC1=NC(=CC=C1O)I)=O | C9H10INO3
reactant | (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene | 612 mg | BrCCCC/C=C/C1=CC=C(C=C1)OC | C13H17BrO
product | 3-{6-iodo-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester | 773 mg | COC(CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)I)=O | C22H26INO4
